US05446153
2-Butyl-6,7-dimethyl-1-(2-methyl-1-propenyl)-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride
4-Amino-2-butyl-α,α,6,7-tetramethyl-1H-imidazo[4,5-c]pyridine-1-ethanol (about 200 mg) was combined with concentrated hydrobromic acid (50mL) and heated at reflux overnight. The reaction mixture was concentrated under vacuum. The residue was taken up in methanol then diluted with ether. The resulting precipitate was collected then partitioned between methylene chloride and 10% sodium hydroxide. The organic layer was separated, dried over magnesium sulfate then concentrated to provide an oil. The oil was taken up in methanol then combined with 0.05 mL of concentrated hydrochloric acid followed by dilution with ether. The resulting precipitate was collected, rinsed with ether and dried to provide 60 mg of the desired product as a white solid, m.p. 205° C.(dec.). Analysis: Calculated for C16H24N4 +1.6 HCl: % C, 58.10; % H, 7.80; % N, 16.94; Found: % C, 57.95; % H, 7.87; % N, 16.89.

reactant | 4-Amino-2-butyl-α,α,6,7-tetramethyl-1H-imidazo[4,5-c]pyridine-1-ethanol | about 200 mg | NC1=NC(=C(C2=C1N=C(N2CC(O)(C)C)CCCC)C)C | C16H26N4O
reactant | hydrobromic acid | 50mL | Br | BrH
reactant | hydrochloric acid | 0.05 mL | Cl | ClH
reactant | ether | CCOCC | C4H10O
solvent | methanol | CO | CH4O
product | 2-Butyl-6,7-dimethyl-1-(2-methyl-1-propenyl)-1H-imidazo[4,5-c]pyridin-4-amine hydrochloride | 60 mg | Cl.C(CCC)C=1N(C2=C(C(=NC(=C2C)C)N)N1)C=C(C)C | InChI=1S/C16H24N4.ClH/c1-6-7-8-13-19-14-15(20(13)9-10(2)3)11(4)12(5)18-16(14)17;/h9H,6-8H2,1-5H3,(H2,17,18);1H
